US09343198B2
3,6-bis(4-(octyloxy)phenyl)-carbazole (4.2 g, 7.29 mmol), 1-bromooctane (4.25 g, 22.0 mmol) and tetrabutylammoniumhydrogensulphate (0.64 g, 1.88 mmol) was dissolved in toluene and mixed with NaOH 50% aqueous solution (5.5 ml). The reaction was quenched after 4 h, extracted three times with ether, and the combined organic phases was washed with water, evaporated, and purified using column chromatography with a 5/2 petroleum ether/toluene mixture as mobile phase. The product was obtained as colourless oil which crystallized to give 9-octyl-3,6-bis(4-(octyloxy)phenyl)-carbazole (1.34 g, 1.95 mmol) as white crystals. 1H-NMR(C2D2Cl4, δ): 0.7-0.9 (m, 9H), 1.15-1.45 (m, 30H), 1.758 (m, 4H), 1.848 (m, 2H), 3.957 (t, 4H), 4.251 (t, 2H), 6.951 (d, 4H), 7.389 (d, 2H), 7.61 (m, 6H) 8.23 (s, 2H) MS MALDI-TOF (m/z): 687.461

reactant | 3,6-bis(4-(octyloxy)phenyl)-carbazole | 7.29 mmol, 4.2 g | C(CCCCCCC)OC1=CC=C(C=C1)C=1C=CC=2NC3=CC=C(C=C3C2C1)C1=CC=C(C=C1)OCCCCCCCC | C40H49NO2
reactant | 1-bromooctane | 22.0 mmol, 4.25 g | BrCCCCCCCC | C8H17Br
reactant | NaOH | [OH-].[Na+]
catalyst | tetrabutylammoniumhydrogensulphate | 1.88 mmol, 0.64 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 9-octyl-3,6-bis(4-(octyloxy)phenyl)-carbazole | 1.95 mmol, 1.34 g | C(CCCCCCC)N1C2=CC=C(C=C2C=2C=C(C=CC12)C1=CC=C(C=C1)OCCCCCCCC)C1=CC=C(C=C1)OCCCCCCCC | C48H65NO2
